### PR TITLE
feat: SubtractionMonoid instance for LinearOrderedAddCommGroupWithTop

### PR DESCRIPTION
**Pull request by Command-Master**
Also prove some lemmas for `LinearOrderedAddCommGroupWithTop` which are needed for the instance.

---

- [ ] depends on: #14598

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Group/Basic.lean [hunk 1]
```diff
@@ -137,3 +137,79 @@ lemma zpow_eq_zpow_iff' (hn : n ≠ 0) : a ^ n = b ^ n ↔ a = b := zpow_left_in
...
+    replace h := congrArg (-a + ·) h
+    dsimp only at h
+    rw [add_top, ← add_assoc, add_comm (-a), add_neg_cancel_of_ne_top,
+      zero_add] at h
+    exact nh.2 h
+    exact nh.1
+  · intro h
+    cases h <;> simp_all
+
+instance : SubtractionMonoid α where
```
Comment (urkud) [inline Mathlib/Algebra/Order/Group/Basic.lean:180]: This instance should have priority 100.

Comment (Command-Master) [reply Mathlib/Algebra/Order/Group/Basic.lean]: Done.

File: Mathlib/Algebra/Order/Group/Basic.lean [hunk 2]
```diff
@@ -137,3 +137,79 @@ lemma zpow_eq_zpow_iff' (hn : n ≠ 0) : a ^ n = b ^ n ↔ a = b := zpow_left_in
...
+    dsimp only
+    rw [← add_assoc, add_comm (-(a + b)), add_neg_cancel_of_ne_top, zero_add]
+    simp [ha, hb]
+  neg_eq_of_add (a b) (h) := by
+    have oh := congrArg (-a + ·) h
+    dsimp only at oh
+    rw [add_zero, ← add_assoc, add_comm (-a), add_neg_cancel_of_ne_top, zero_add] at oh
+    exact oh.symm
+    intro v
+    simp [v] at h
```
Comment (jcommelin) [inline Mathlib/Algebra/Order/Group/Basic.lean:213]: This looks like you have multiple goals in focus at the same time. Please use bullet points to structure your proof.

File: Mathlib/Algebra/Order/Group/Basic.lean [hunk 3]
```diff
@@ -137,3 +137,77 @@ lemma zpow_eq_zpow_iff' (hn : n ≠ 0) : a ^ n = b ^ n ↔ a = b := zpow_left_in
...
+lemma top_ne_zero' :
+    (⊤ : α) ≠ 0 := by
+  intro nh
+  have ⟨a, b, h⟩ := Nontrivial.exists_pair_ne (α := α)
+  have : a + 0 ≠ b + 0 := by simpa
+  rw [← nh] at this
+  simp at this
+
+@[simp]
+lemma neg_eq_top_iff (a : α) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Group/Basic.lean:155]:
```suggestion
lemma neg_eq_top {a : α} :
```
```suggestion
lemma neg_eq_top_iff (a : α) :
```

File: Mathlib/Algebra/Order/Group/Basic.lean [hunk 4]
```diff
@@ -137,3 +137,77 @@ lemma zpow_eq_zpow_iff' (hn : n ≠ 0) : a ^ n = b ^ n ↔ a = b := zpow_left_in
 #align zsmul_eq_zsmul_iff' zsmul_eq_zsmul_iff'
 
 end LinearOrderedCommGroup
+
+section LinearOrderedAddCommGroupWithTop
+
+variable (α : Type*) [LinearOrderedAddCommGroupWithTop α]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Group/Basic.lean:143]:
```suggestion
variable {α : Type*} [LinearOrderedAddCommGroupWithTop α]
```
```suggestion
variable (α : Type*) [LinearOrderedAddCommGroupWithTop α]
```

File: Mathlib/Algebra/Order/Group/Basic.lean [hunk 5]
```diff
@@ -137,3 +137,77 @@ lemma zpow_eq_zpow_iff' (hn : n ≠ 0) : a ^ n = b ^ n ↔ a = b := zpow_left_in
...
+  ⟨by
+  intro h
+  by_contra nh
+  replace nh := add_neg_cancel_of_ne_top nh
+  rw [h, add_top] at nh
+  exact top_ne_zero' _ nh, fun h ↦ h ▸ neg_top⟩
+
+@[simp]
+lemma add_eq_top_iff (a b : α) :
+    (a + b = ⊤) ↔ a = ⊤ ∨ b = ⊤ := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Group/Basic.lean:166]:
```suggestion
lemma add_eq_top {a b : α} :
    a + b = ⊤ ↔ a = ⊤ ∨ b = ⊤ := by
```
```suggestion
lemma add_eq_top_iff (a b : α) :
    (a + b = ⊤) ↔ a = ⊤ ∨ b = ⊤ := by
```

File: Mathlib/Algebra/Order/Group/Defs.lean [hunk 6]
```diff
@@ -1104,6 +1104,16 @@ class LinearOrderedAddCommGroupWithTop (α : Type*) extends LinearOrderedAddComm
   protected add_neg_cancel : ∀ a : α, a ≠ ⊤ → a + -a = 0
 #align linear_ordered_add_comm_group_with_top LinearOrderedAddCommGroupWithTop
 
+@[simp]
+lemma neg_top {α : Type*} [LinearOrderedAddCommGroupWithTop α] : -(⊤ : α) = ⊤ :=
+  LinearOrderedAddCommGroupWithTop.neg_top
+
+
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Group/Defs.lean:1111]:
```suggestion
```

File: Mathlib/Algebra/Order/Group/WithTop.lean [hunk 7]
```diff
@@ -51,9 +51,6 @@ theorem coe_neg (a : α) : ((-a : α) : WithTop α) = -a :=
   rfl
 #align with_top.coe_neg WithTop.LinearOrderedAddCommGroup.coe_neg
 
-@[simp]
-theorem neg_top : -(⊤ : WithTop α) = ⊤ := rfl
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Group/WithTop.lean:55]: I think you should keep this one since it's eligible for dsimp

Comment (Command-Master) [reply Mathlib/Algebra/Order/Group/WithTop.lean:55]: Does the simpNF linter work for `dsimp` now? I saw there was some talk about that in Zulip, and previously this lemma triggered it.

Comment (YaelDillies) [reply Mathlib/Algebra/Order/Group/WithTop.lean:55]: I'm not quite sure whether it's there just yet (and you will have to merge master), but you can always tag this lemma with `nolint simpNF`

Comment (Command-Master) [reply Mathlib/Algebra/Order/Group/WithTop.lean]: Alright, I tagged it with `nolint simpNF`

File: Mathlib/Algebra/Order/Group/Basic.lean [hunk 8]
```diff
@@ -137,3 +137,77 @@ lemma zpow_eq_zpow_iff' (hn : n ≠ 0) : a ^ n = b ^ n ↔ a = b := zpow_left_in
...
+
+@[simp]
+lemma neg_eq_top {a : α} :
+    -a = ⊤ ↔ a = ⊤ :=
+  ⟨by
+  intro h
+  by_contra nh
+  replace nh := add_neg_cancel_of_ne_top nh
+  rw [h, add_top] at nh
+  exact top_ne_zero' nh, fun h ↦ h ▸ neg_top⟩
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Group/Basic.lean:162]: Since `Iff` is a structure, you can use `where` notation
```suggestion
@[simp] lemma neg_eq_top {a : α} : -a = ⊤ ↔ a = ⊤ where
  mp h := by
    by_contra nh
    replace nh := add_neg_cancel_of_ne_top nh
    rw [h, add_top] at nh
    exact top_ne_zero' nh
  mpr h := h ▸ neg_top
```

File: Mathlib/Algebra/Order/Group/Basic.lean [hunk 9]
```diff
@@ -137,3 +137,77 @@ lemma zpow_eq_zpow_iff' (hn : n ≠ 0) : a ^ n = b ^ n ↔ a = b := zpow_left_in
...
+
+@[simp]
+lemma add_eq_top {a b : α} :
+    a + b = ⊤ ↔ a = ⊤ ∨ b = ⊤ := by
+  constructor
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Group/Basic.lean:167]: Same here

File: Mathlib/Algebra/Order/Group/Basic.lean [hunk 10]
```diff
@@ -137,3 +137,77 @@ lemma zpow_eq_zpow_iff' (hn : n ≠ 0) : a ^ n = b ^ n ↔ a = b := zpow_left_in
...
+    replace h := congrArg (-a + ·) h
+    dsimp only at h
+    rw [add_top, ← add_assoc, add_comm (-a), add_neg_cancel_of_ne_top,
+      zero_add] at h
+    · exact nh.2 h
+    · exact nh.1
+  · intro h
+    cases h <;> simp_all
+
+instance (priority := 100) : SubtractionMonoid α where
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Group/Basic.lean:180]:
```suggestion
instance (priority := 100) toSubtractionMonoid : SubtractionMonoid α where
```
since it's an inheritance instance

File: Mathlib/Algebra/Order/Group/Basic.lean [hunk 11]
```diff
@@ -174,10 +170,10 @@ lemma add_eq_top {a b : α} :
       zero_add] at h
     · exact nh.2 h
     · exact nh.1
-  · intro h
+  mpr h := by
     cases h <;> simp_all
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Group/Basic.lean]:
```suggestion
  mpr h := by cases h <;> simp_all
```

File: Mathlib/Algebra/Order/Group/Basic.lean (hunk 5 above)
Comment (Command-Master) [reply Mathlib/Algebra/Order/Group/Basic.lean]: This collides with `ENNReal.add_eq_top` so I had to undo this

File: Mathlib/Algebra/Order/Group/Basic.lean [hunk 12]
```diff
@@ -137,3 +137,72 @@ lemma zpow_eq_zpow_iff' (hn : n ≠ 0) : a ^ n = b ^ n ↔ a = b := zpow_left_in
...
+@[simp] lemma neg_eq_top {a : α} : -a = ⊤ ↔ a = ⊤ where
+  mp h := by
+    by_contra nh
+    replace nh := add_neg_cancel_of_ne_top nh
+    rw [h, add_top] at nh
+    exact top_ne_zero' nh
+  mpr h := h ▸ neg_top
+
+@[simp]
+lemma add_eq_top_iff {a b : α} : a + b = ⊤ ↔ a = ⊤ ∨ b = ⊤ where
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Group/Basic.lean:163]: Why the `_iff`? It's pretty unambiguous that the lemma is an iff. Compare with `mul_eq_zero`

Comment (Command-Master) [reply Mathlib/Algebra/Order/Group/Basic.lean:163]: It collides with `ENNReal.add_eq_top`.

Comment (Command-Master) [reply Mathlib/Algebra/Order/Group/Basic.lean:163]: Perhaps there should be some typeclass which `Mathlib.Algebra.Order.Monoid.WithTop` could use, which both `WithTop` and `LinearOrderedAddCommGroupWithTop` have instances of, as I see this is already a theorem there.

Comment (YaelDillies) [reply Mathlib/Algebra/Order/Group/Basic.lean:163]: Yes, that sounds right

Comment (Command-Master) [reply Mathlib/Algebra/Order/Group/Basic.lean:163]: There is a problem that the corresponding theorems on `WithTop` have less requirements. For example `WithTop.add_eq_top` only requires `[Add α]`, while the `LinearOrderedAddCommMonoidWithTop` instance requires `[LinearOrderedAddCommMonoid α]`. How can this be resolved?

Comment (YaelDillies) [reply Mathlib/Algebra/Order/Group/Basic.lean:163]: You can keep `WithTop.add_eq_top`, but make it `protected`

**Comment by Command-Master** [comment]
`add_eq_top` for `LinearOrderedAddCommMonoidWithTop` is equivalent to `mul_eq_zero` for a `LinearOrderedCommMonoidWithZero`, which requires `NoZeroDivisors` - perhaps there should be some typeclass for it, maybe `NoTopAddends`?

**Comment by YaelDillies** [comment]
Maybe? I'm afraid it would be a bit too niche in use. What would the instances be?

**Comment by Command-Master** [comment]
> Maybe? I'm afraid it would be a bit too niche in use. What would the instances be?

It's the same instances as `LinearOrderedAddCommMonoidWithTop` (`ENNReal`, `ERealᵒᵈ`, `PUnit`, `PartENat`, `WithTop α`, `Additive αᵒᵈ`), but `instLinearOrderedAddCommMonoidWithTopAdditiveOrderDual` gains a requirement of `NoZeroDivisors`

**Comment by YaelDillies** [comment]
I guess we could have the typeclass then, although I'm still not convinced it would be amazingly useful

File: Mathlib/Data/ENNReal/Operations.lean [hunk 13]
```diff
@@ -184,11 +184,11 @@ section OperationsAndInfty
 
 variable {α : Type*}
 
-@[simp] theorem add_eq_top : a + b = ∞ ↔ a = ∞ ∨ b = ∞ := WithTop.add_eq_top
-#align ennreal.add_eq_top ENNReal.add_eq_top
+-- @[simp] theorem add_eq_top : a + b = ∞ ↔ a = ∞ ∨ b = ∞ := WithTop.add_eq_top
+-- #align ennreal.add_eq_top ENNReal.add_eq_top
```
Comment (YaelDillies) [inline Mathlib/Data/ENNReal/Operations.lean:188]: Can't you align to the general lemma instead?
```suggestion
#align ennreal.add_eq_top add_eq_top -- or however it's called
```

Comment (Command-Master) [reply Mathlib/Data/ENNReal/Operations.lean]: Done.

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 14]
```diff
@@ -309,10 +311,10 @@ instance instLinearOrderedCommMonoidWithZeroMultiplicativeOrderDual
     LinearOrderedCommMonoidWithZero (Multiplicative αᵒᵈ) :=
   { Multiplicative.orderedCommMonoid, Multiplicative.linearOrder with
     zero := Multiplicative.ofAdd (⊤ : α)
-    zero_mul := @top_add _ (_)
+    zero_mul := @top_add α _ _ _
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:314]:
```suggestion
    zero_mul := top_add (α  := \alpha)
```

**Review by YaelDillies — COMMENTED** [review]
Please split the new classes to a separate PR

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean (hunk 14 above)
Comment (Command-Master) [reply Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:314]: Created #14598
